US07375227B2
381 D. Methyl-(2-methyl-quinolin-4-yl)-amine
A mixture of 4-chloro-2-methyl-quinoline (4.36 g, 24.5 mmol) and benzylmethylamine (3.13 g, 25.8 mmol) is heated under N2 at 120° C. for 12 h. The residue is dissolved in CH2Cl2 (50 ml) and washed successively with aqueous saturated Na2CO3 (50 mL) and 1M aqueous NaOH (50 ml). The CH2Cl2 layer is evaporated, and the residue is dissolved in MeOH (400 mL) and 4M HCl in dioxane (12 mL). 10% Pd—C (410 mg) are added and the suspension is hydrogenated for 15 h under ambient pressure. The reaction mixture is filtered through a pad of Celite. 1M aqueous NaOH (100 mL) is added and the filtrate is evaporated. The residue is dissolved in water and extracted with CH2Cl2 (3×50 mL). The combined organic extracts are dried and evaporated to provide the title compound.

reactant | 4-chloro-2-methyl-quinoline | 24.5 mmol, 4.36 g | ClC1=CC(=NC2=CC=CC=C12)C | C10H8ClN
reactant | benzylmethylamine | 25.8 mmol, 3.13 g | C(C1=CC=CC=C1)CN | C8H11N
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
product | Methyl-(2-methyl-quinolin-4-yl)-amine | CNC1=CC(=NC2=CC=CC=C12)C | C11H12N2
